US07547691B2
(D). Preparation of 2-{5-methyl-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-4-ol.
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 2-(2-chloro-5-methylpyrimidin-4-yl)benzo[b]thiophen-4-ol and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a solid. ES+(m/z) 398 [M+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)benzo[b]thiophen-4-ol | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2O)C | C13H9ClN2OS
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | 2-{5-methyl-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-4-ol | CC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2O | C21H27N5OS
